US07851626B2
rac-[(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-(octahydro-pyrido[1,2-a]pyrazin-2-yl)-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with octahydro-pyrido[1,2-a]pyrazine (Aldrich) to give the title compound as a mixture of diastereomers. HR-MS (ES, m/z) calculated for C39H49N4O2Cl2 [(M+H)+] 675.3227, observed 675.3224.

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OC(C)C | C31H33Cl3N2O2
reactant | octahydro-pyrido[1,2-a]pyrazine | C1C2N(CCN1)CCCC2 | C8H16N2
product | rac-[(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-(octahydro-pyrido[1,2-a]pyrazin-2-yl)-methanone | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)N1CC2N(CC1)CCCC2)OC(C)C | C39H48Cl2N4O2
